US08871796B2
1-fluoro-4-(trifluoromethyl)benzene (22.9 mL, 180 mmol, 6.00 equiv) was added to a mixture of 3-(1-ethyl-5-oxo-2,5-dihydro-1H-pyrazol-3-yl)benzonitrile (6.40 g, 30.0 mmol, 1 equiv) and potassium carbonate (12.4 g, 90.0 mmol, 3.00 equiv) in dimethyl sulfoxide (60 mL) in a high pressure reaction vessel. The vessel was sealed, and the reaction mixture was heated to 160° C. After stirring for 16 hours, the high pressure vessel was cooled to 22° C. and the reaction mixture was partitioned between ethyl acetate and water. The organic layer was washed with saturated aqueous sodium chloride solution, and the washed solution was dried over sodium sulfate. The dried solution was filtered, and the filtrate was concentrated. The residue was purified by flash-column chromatography (hexanes, grading to 50% ethyl acetate-hexanes) to afford 3-{1-ethyl-5-[4-(trifluoromethyl)phenoxy]-1H-pyrazol-3-yl}benzonitrile (4.70 g, 44%) as a white solid. Calcd (M+1)+: 357.1. Found: 358.0.

reactant | 1-fluoro-4-(trifluoromethyl)benzene | 180 mmol, 22.9 mL, 6.00 equiv | FC1=CC=C(C=C1)C(F)(F)F | C7H4F4
reactant | 3-(1-ethyl-5-oxo-2,5-dihydro-1H-pyrazol-3-yl)benzonitrile | 30.0 mmol, 6.40 g, 1 equiv | C(C)N1NC(=CC1=O)C=1C=C(C#N)C=CC1 | C12H11N3O
reactant | potassium carbonate | 90.0 mmol, 12.4 g, 3.00 equiv | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl sulfoxide | 60 mL | CS(=O)C | C2H6OS
product | 3-{1-ethyl-5-[4-(trifluoromethyl)phenoxy]-1H-pyrazol-3-yl}benzonitrile | 4.70 g, 44% | C(C)N1N=C(C=C1OC1=CC=C(C=C1)C(F)(F)F)C=1C=C(C#N)C=CC1 | C19H14F3N3O
